US06608217B2
A three-necked 200-ml flask (equipped with a thermometer and a dropping funnel) was charged with 10.77 g (38.5 mmol) of 2,2-bis(fluoromethyl)- 3,4-dihydro-6-(trifluoromethyl)-2 H-1-benzopyran-4-one, 11.7 g (96.1 mmol) of 4-dimethylaminopyridine (DMAP), and 96 ml of methylene chloride. Then, 26.4 g (93.6 mmol) of trifluoromethanesulfonic acid anhydride were added in a dropwise manner by spending 5 minutes to the mixture under cooling in an iced water bath at 5-10° C., while the mixture was stirred. After completing the dropping, the temperature of the mixture was gradually increased to room temperature, followed by stirring for 18 hr at room temperature. The resulting reaction liquid was filtered, followed by washing two times with water. Then, the methylene chloride was distilled off by an evaporator. The resulting residue was dissolved in 50 ml of hexane, followed by filtration. The resulting filtrate was washed with 12 ml of 3 mol/L (14%) ammonium chloride aqueous solution, then concentrated with hexane, and then purified by silica gel short column chromatography (developing liquid: MTBE/n-hexane={fraction (1/10)}), thereby obtaining 12.53 g (30.41 mmol) of trifluoromethanesulfonic acid 2,2-bis(fluoromethyl)-6-(trifluoromethyl)-2 H-1-benzopyran-4-yl ester (yield: 79.1%).

reactant | 2,2-bis(fluoromethyl)- 3,4-dihydro-6-(trifluoromethyl)-2 H-1-benzopyran-4-one | 38.5 mmol, 10.77 g | FCC1(OC2=C(C(C1)=O)C=C(C=C2)C(F)(F)F)CF | C12H9F5O2
reactant | trifluoromethanesulfonic acid anhydride | 93.6 mmol, 26.4 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
catalyst | 4-dimethylaminopyridine | 96.1 mmol, 11.7 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 96 ml | C(Cl)Cl | CH2Cl2
product | trifluoromethanesulfonic acid 2,2-bis(fluoromethyl)-6-(trifluoromethyl)-2 H-1-benzopyran-4-yl ester | 30.41 mmol, 12.53 g, yield: 79.1% | FCC1(OC2=C(C(=C1)OS(=O)(=O)C(F)(F)F)C=C(C=C2)C(F)(F)F)CF | C13H8F8O4S
